2134-04-25 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2134-4-24**] 10:31 AM
 BLOOD CULTURED - At [**2134-4-24**] 02:40 PM
   from POC
 BLOOD CULTURED - At [**2134-4-24**] 02:57 PM
   from PICC
   - Restarted bblocker: Metoprolol Tartrate 25 mg TID
   - PICC placed
   - per GI - Colonoscopy monday to r/o process at anastamosis site.
   - Per micro lab, pt growing [**3-2**] GPCs in clusters from portacath from
   [**4-23**] blood cultures. Started vancomycin through PICC line and portacath
   (alternating doses)
   - TPN held
   - lovenox held since [**4-22**] in setting of bleeding
   - 500cc bolus for SBP 90s, pt was asymptomatic
   - one small maroon stool overnight
   - pt states that he feels
pretty damn good
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2134-4-24**] 08:54 PM
   Ciprofloxacin - [**2134-4-24**] 09:47 PM
   Metronidazole - [**2134-4-25**] 04:29 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-4-24**] 07:50 PM
   Carafate (Sucralfate) - [**2134-4-25**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-4-25**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.1
C (97
   HR: 104 (82 - 138) bpm
   BP: 111/56(69) {91/43(54) - 127/66(77)} mmHg
   RR: 21 (19 - 40) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,382 mL
                                                                    166 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                  5,182 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                    730 mL
                                                                    295 mL
   Urine:
                                                                    730 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,652 mL
                                                                   -129 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   Gen: alert, comfortable
   HEENT: dry mm
   CV: Reg Rhythm, rate 90s
   Lungs: Diminised at bases, no crackles
   Abd: soft, mild distension ; mild tenderness to palpation
   Ext: waffle boots , wrapped ankles, 2+ edema bilateral lower
   extremities
   Labs / Radiology
   152 K/uL
   9.2 g/dL
   112 mg/dL
   1.4 mg/dL
   18 mEq/L
   3.6 mEq/L
   26 mg/dL
   111 mEq/L
   140 mEq/L
   27.6 %
   6.9 K/uL
        [image002.jpg]
                             [**2134-4-23**]  11:22 AM
                             [**2134-4-23**]  02:33 PM
                             [**2134-4-23**]  10:03 PM
                             [**2134-4-24**]  01:42 AM
                             [**2134-4-24**]  05:36 AM
                             [**2134-4-24**]  11:43 AM
                             [**2134-4-24**]  04:27 PM
                             [**2134-4-25**]  04:11 AM
   WBC
   6.3
   6.9
   Hct
   30.7
   30.5
   29.8
   28.8
   29.6
   28.4
   27.6
   Plt
   205
   152
   Cr
   1.6
   1.3
   1.3
   1.4
   TCO2
   14
   Glucose
   [**Telephone/Fax (3) 14217**]
   Other labs: PT / PTT / INR:14.1/32.1/1.2, Differential-Neuts:66.0 %,
   Band:22.0 %, Lymph:3.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.2
   mmol/L, LDH:310 IU/L, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   72yo M with h/o metastatic rectal CA and SVC syndrome on lovenox
   admitted with intractable diarrhea thought [**3-2**] chemo now with BRBPR and
   hematemesis.
   # GI Bleed/diarrhea:
   Much improved, no diarrhea in last 24hours.  Given EGD results, his
   bleed appears to be from diffuse ulceration from the esophagus through
   the duodenum.  Inflammation and ulcerations likely throughout lower GI
   tract as well.  Hct stable, slowly downtrending.  Pt has received Vit
   K, last dose today.
   - Continue PPI gtt, sucralfate
   - appreciate GI recs
   - Hcts Q8H
   - f/u stool cultures, negative so far
   - flex sig by GI likely Monday to evaluate lower GI tract additionally
   ; prep w lactulose enema
   - if bleeds briskly, consider tagged RBC scan w angio
   - continue lomotil but make PRN
   - clear liquid challenge today
   # Bacteremia:
   GPCs in clusters noted yesterday, started Vanc yesterday alternating
   through PICC and port.  Low grade temperatures persist with bandemia
   new on this admission.  Concern also for translocation of gut flora
   through extensive ulceration.  Most recent lactate within normal
   limits.
   - trend lactate
   - continue cipro/flagyl for emipirc treatment of GI flora until stool
   cultures come back negative
   - f/u blood cultures, stool cultures
   - continue surveillance blood cultures
   - continue alternating Vanc through PICC and portacath
   # Coagulopathy:
   INR back down to 1.2 yesterday.  Holding lovenox, last dose on [**4-22**].
   - follow INR
   - Received Vit K last dose today
   # Tachycardia:
   Sinus with pacs/pvcs largely unchanged since he's been here so likely
   secondary to volume depletion in setting of diarrhea and gib in
   addition to infection. Denied pain.  Unlikely PE given long term
   anticoagulation with lovenox for SVC syndrome, though no longer
   anticoagulated. Restarted low-dose betablocker yesterday.
   - IVF boluses and pRBCs as needed
   - telemetry
   # Acute Renal Failure:
   Likely [**3-2**] hypovolemia from GIB and pre-renal azotemia. Has responded
   well to fluids.
   - Renally dose meds
   - maintainence fluids today + po intake
   - Avoid nephrotoxins
   # SOB:
   Unclear etiology.   No crackles on exam, and has been getting large
   fluid volume since arriving in ICU. CXR yesterday showed stable left
   sided opacity.   No need to diurese.  No complaints of shortness of
   breath anymore.
   - Monitor sats, RR
   # SVC Syndrome:
   CTA did not show obstruction or clot.  [**Month (only) 51**] not need any further lovenox
   for SVC syndrome, unless he has predisposition to clotting, and he has
   a new PICC line.
   - Hold lovenox.
   # Diabetes: Patient has h/o diabetes but not on medications at home.
   - STart ISS
   - FSBS QID
   # Edematous L arm:
   Was not felt to be secondary to a clot because had been therapeutic on
   lovenox when noted, but no longer on anticoagulation. Felt to be likely
   from PIV infiltrated.
   - monitor
   - warm compresses
   # Rectal CA:
   Managed by Dr. [**First Name (STitle) 861**].
   - Management per onc
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2134-4-23**] 10:45 AM
   PICC Line - [**2134-4-24**] 10:31 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI IV
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  transfer to floor
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   I saw and examined the patient, and was physically present with the ICU
   resident for the key portions of the services provided. I agree with
   the note above, including the assessment and plan.  To that I would add
   the following:
   Mr [**Known lastname 765**] feels significantly better today. He is afebrile and
   tachycardia has responded to reinstitution of beta blocker and fluids.
   He has not needed further pRBC transfusion overnight. Unfortunately, he
   has GPC
s in blood and has needed IV Vanco till sensitivities return.
   This could represent bacteremia after procedure but catheter sepsis is
   a concern. Oncology staff prefer to treat through the line at this
   time.
   We will advance his diet and follow Hct closely. He will need a Flex
   sig at some point on this admit but would hold off for now unless there
   is fresh hematochezia. We will follow daily surveillance blood
   cultures.
   He is ready for transfer to the floor later today. Would hold lovenox
   unless absolutely needed.
   [**First Name8 (NamePattern2) 3093**] [**Name8 (MD) **], M.D.
   Pulmonary, Critical Care and Sleep Medicine,
   Time: 25 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2134-4-25**] 12:28 ------